US05847155
2,3-dihydro-2-[[2-(hydroxymethyl)-1-pyrrolidinyl]carbonyl] 1H-Indole-1-carboxylic acid phenylmethyl ester
2,3-dihydro-1H-indole-1,2-dicarboxylic acid, 1-(phenylmethyl) ester. 10.0 g (0.0612 mol) of indoline-2-carboxylic acid was added to 100 ml of water and 1N NaOH was added to the solution until the pH was 8.0. To the resulting solution, 9.10 ml (0.0637 mol) carbobenzyloxychloride was added dropwise. The reaction mixture was stirred for 1 hour at room temperature while keeping the pH between 7.5 and 8.5 with addition of 1N NaOH. The mixture was then extracted with ether and the ether extracts discarded. The pH of the reaction mixture was then adjusted to 6.3 and extracted with ethyl acetate. The ethyl acetate extracts were combined, dried, and evaporated. The residue was chromatographed on silica gel eluting with 3:7/ethyl acetate:hexane. Fractions containing the desired material were combined and evaporated to yield 9.3 g (51%) of the title compound as a white amorphous solid. TLC (10:1/chloroform:methanol) Rf =0.25. 1H NMR (CDCl3) δ: 6.8-7.9(m,9H); 4.8-5.4(m,3H); 3.50(m,1H); 3.20(m,1H).

reactant | 2,3-dihydro-1H-indole-1,2-dicarboxylic acid, 1-(phenylmethyl) ester | N1(C(CC2=CC=CC=C12)C(=O)[O-])C(=O)OCC1=CC=CC=C1
reactant | indoline-2-carboxylic acid | 0.0612 mol, 10.0 g | N1C(CC2=CC=CC=C12)C(=O)O | C9H9NO2
reactant | NaOH | 1N | [OH-].[Na+]
reactant | carbobenzyloxychloride | 0.0637 mol, 9.10 ml | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 2,3-dihydro-2-[[2-(hydroxymethyl)-1-pyrrolidinyl]carbonyl] 1H-Indole-1-carboxylic acid phenylmethyl ester | 9.3 g, 51% | C1(=CC=CC=C1)COC(=O)N1C(CC2=CC=CC=C12)C(=O)N1C(CCC1)CO | C22H24N2O4
